US08859580B2
(2R,6S)-6,11,11-Trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine
10% Pd/C (0.20 g) is added to a solution of (2R,6S)-trifluoro-methanesulfonic acid 3-benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-yl ester (0.50 g) in ethanol (10 mL). The resulting mixture is shaken under hydrogen atmosphere (50 psi) at room temperature overnight. Then, the catalyst is separated by filtration and Pd(OH)2 (0.2 g) is added to the filtrate (the benzyl group was not completely removed after the treatment in the presence of Pd/C). The mixture is shaken for another 16 h in hydrogen atmosphere (50 psi) at room temperature. The catalyst is separated and the filtrate is concentrated under reduced pressure to give the crude product that is used without further purification.

reactant | (2R,6S)-trifluoro-methanesulfonic acid 3-benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-yl ester | 0.50 g | C(C1=CC=CC=C1)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC=C3OS(=O)(=O)C(F)(F)F | C23H26F3NO3S
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | (2R,6S)-6,11,11-Trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine | C[C@@]12C3=C(C[C@@H](NCC1)C2(C)C)C=CC=C3 | C15H21N
